US09382236B2
(5) 5-[4-[(2-Chloropyridin-3-yl)carbonylamino]phenyl]-1H-[1,4]diazepino[2,3-f]isoquinoline-2,4(3H,5H)-dione
By using 2-chloronicotinic acid (32 mg, 0.2 mmol), and 5-(4-aminophenyl)-1H-[1,4]diazepino[2,3-f]isoquinoline-2,4(3H,5H)-dione (6 mg, 0.02 mmol), the title compound (8 mg, yield 85%) was obtained as pale brown powder in the same manner as that of Example 149.

reactant | 2-chloronicotinic acid | 0.2 mmol, 32 mg | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | 5-(4-aminophenyl)-1H-[1,4]diazepino[2,3-f]isoquinoline-2,4(3H,5H)-dione | 0.02 mmol, 6 mg | NC1=CC=C(C=C1)N1C(CC(NC2=C3C=CN=CC3=CC=C21)=O)=O | C18H14N4O2
product | 5-[4-[(2-Chloropyridin-3-yl)carbonylamino]phenyl]-1H-[1,4]diazepino[2,3-f]isoquinoline-2,4(3H,5H)-dione | 8 mg, yield 85% | ClC1=NC=CC=C1C(=O)NC1=CC=C(C=C1)N1C(CC(NC2=C3C=CN=CC3=CC=C21)=O)=O | C24H16ClN5O3
